US05106869
(1-2) Dimethyl (7-methoxy-2-oxoheptyl)phosphonate
A solution of dimethyl methylphosphonate (8.88 g) in THF (60 ml) was cooled to -60° C. , to which n-butylithium (1.55-M, 46.2 ml) was added dropwise. After addition, the solution was stirred at -60° C. for 30 minutes. A solution of methyl 6-methoxy-caproate (5.65 g) in THF (50 ml) was added dropwise to the resulting solution and held at -60° C. overnight, and at room temperature for 2 hours. After the reaction solution was cooled to 0° C., the reaction was neutralized by addition of acetic acid (4 ml). The crude product obtained after the usual work-up was chromatographed (dichloromethane/methanol (5%)).

reactant | dimethyl methylphosphonate | 8.88 g | CP(OC)(OC)=O | C3H9O3P
reactant | methyl 6-methoxy-caproate | 5.65 g | COCCCCCC(=O)OC | C8H16O3
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Dimethyl (7-methoxy-2-oxoheptyl)phosphonate | COCCCCCC(CP(OC)(OC)=O)=O | C10H21O5P
